US09428456B2
(4.01a): N-(3-[1,3]Dioxolan-2-yl-phenyl)-5-methyl-nicotinamide
A solution of EDC hydrochloride (6.3 g, 32.81 mmol) in DCM (20 mL) is added over 5 min. to a solution of 3-aminobenzaldehyde ethylene acetal (3,614 g, 21.9 mmol), 5-methylnicotinic acid (3 g, 21.9 mmol), HOBt (6.7 g, 43.75 mmol), DMAP (534.5 mg, 4.38 mmol) and DIPEA (11.2 mL, 65.63 mmol) in DCM (30 mL) at RT under argon. The mixture is stirred at RT for 18 h. The mixture is diluted with DCM (50 mL) and washed twice with aq. sat. NaHCO3 (50 mL). The organic phase is separated and the aq. phase extracted twice with DCM (100 mL). The combined organic phases are washed with brine (200 mL), dried over MgSO4 and evaporated. The crude product is purified by flash chromatography on silica gel using a gradient of heptane and EtOAc 1:1 to heptane/EtOAc 1:4. After concentration of the product-containing fractions, the title compound (6.14 g, 99%) is obtained as a colorless solid LC-MS A: tR=0.58 min; [M+H]+=285.22.

reactant | EDC hydrochloride | 32.81 mmol, 6.3 g | CCN=C=NCCCN(C)C.Cl
reactant | 3-aminobenzaldehyde ethylene acetal | 21.9 mmol, 3,614 g | C1COC(C2=CC(=CC=C2)N)O1 | C9H11NO2
reactant | 5-methylnicotinic acid | 21.9 mmol, 3 g | CC=1C=NC=C(C(=O)O)C1 | C7H7NO2
reactant | HOBt | 43.75 mmol, 6.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 65.63 mmol, 11.2 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 4.38 mmol, 534.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | N-(3-[1,3]Dioxolan-2-yl-phenyl)-5-methyl-nicotinamide | 6.14 g, 99% | O1C(OCC1)C=1C=C(C=CC1)NC(C1=CN=CC(=C1)C)=O | C16H16N2O3
